US03950353
By the procedure of Example 18, 3-[(2-aminoethyl)-thiomethyl]pyrazole is reacted with benzoyl isothiocyanate to give N-benzoyl-N'-[2-(3-pyrazolylmetylthio)ethyl]thiourea. Removing the benzoyl group by the procedure of Example 18 gives N-[2-(3-pyrazolylmethylthio)ethyl]thiourea.

reactant | 3-[(2-aminoethyl)-thiomethyl]pyrazole | NCCSCC1=NNC=C1 | C6H11N3S
reactant | benzoyl isothiocyanate | C(C1=CC=CC=C1)(=O)N=C=S | C8H5NOS
product | N-benzoyl-N'-[2-(3-pyrazolylmetylthio)ethyl]thiourea | C(C1=CC=CC=C1)(=O)NC(=S)NCCSCC1=NNC=C1 | C14H16N4OS2
